US08557513B2
SDS-PAGE and Immunoblot Analysis
RINm5F cells following different treatments were lysed in a lysis buffer (pH 7.5) consisting of 50 mM HEPES, 150 mM NaCl, 1 EGTA, 1 mM EDTA, 10% glycerol, 1% triton X-100, 1 mM PMSF and a protease inhibitor cocktail (Roche Diagnostics, Mannheim, Germany). The lysate was centrifuged at 800×g for 10 min at 4° C. to remove cell debris and nuclei. The protein concentration of the resulting samples was determined with Bio-Rad protein assay reagent (Bio-Rad, Hercules, Calif.). The samples were then denatured by heating at 96° C. for 3 min in SDS sample buffer and underwent sodium dodecyl sulfate-polyacrylamide gel electrophoresis (SDS-PAGE) and immunoblot analysis. Briefly, 50, 90 or 180 μg proteins were separated in discontinuous gels consisting of a 4% acrylamide stacking gel (pH 6.8) and an 8% acrylamide separating gel (pH 8.8). The separated proteins were then electroblotted to hydrophobic polyvinylidene difluoride membrane (Hybond-P; GE Healthcare, Uppsala, Sweden). The blots were blocked by incubation for 1 h with 5% non-fat milk powder in a washing buffer, containing 50 mM tris(hydroxymethyl)aminomethane, 150 mM NaCl and 0.05% Tween 20 (pH 7.5). They were then incubated overnight at 4° C. with affinity-purified rabbit polyclonal antibodies to β1 integrin (1:500; Millipore, Billerica, Mass.), CaV1.2 (1:200) and CaV1.3 (1:200), respectively, and for 1 h at room temperature with mouse monoclonal antibody to glyceraldehyde-3-phosphate dehydrogenase (GAPDH, 1:4000; Applied Biosystems/Ambion, Austin, Tex.), respectively. After rinsing with the washing buffer, the blots were incubated with the secondary antibodies (either horseradish peroxidase-conjugated goat anti-rabbit IgG or horseradish peroxidase-conjugated goat anti-mouse IgG; 1:50,000; Bio-Rad, Hercules, Calif.) at room temperature for 45 min. The immunoreactive bands were visualized with the ECL plus Western blotting detection system (GE Healthcare, Uppsala, Sweden).

reactant | HEPES | 50 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | NaCl | 150 mM | [Na+].[Cl-]
reactant | EGTA | C(COCCOCCN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C14H24N2O10
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | PMSF | 1 mM | C1=CC=C(C=C1)CS(=O)(=O)F | C7H7FO2S
solvent | glycerol | OCC(O)CO | C3H8O3
product | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+] | InChI=1S/C12H26O4S.Na/c1-2-3-4-5-6-7-8-9-10-11-12-16-17(13,14)15;/h2-12H2,1H3,(H,13,14,15);/q;+1/p-1
